US07067529B2
To anhydrous N,N-dimethylformamide (0.078 mL, 1.02 mmol) at 0° C. was added phosphorus oxychloride (0.042 mL, 0.44 mmol) dropwise. The mixture was warmed to room temperature and stirred for 30 minutes. The mixture was cooled in an ice-bath, and 6-benzyloxy-7-methoxy-1-(3-methoxy-benzyl)-1H-isoquinoline-2-carboxylic acid ethyl ester (156 mg, 0.34 mmol) in dichloromethane (3 mL) was added dropwise. After addition was complete, the mixture was heated on an oil bath for 4 hrs at 80° C. The mixture was cooled to 0° C. and a solution of potassium acetate (154 mg, 1.56 mmol) in water (2 mL) was added slowly. The mixture was then heated at 80° C. for 20 minutes. The mixture was cooled, poured into water and diluted with dichloromethane (60 mL). The organic layer was washed water (2×20 mL), saturated aqueous sodium bicarbonate solution (20 mL), saturated aqueous sodium chloride solution (20 mL), dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo to afford a crude oil. Flash chromatography (Merck Silica gel 60, 70–230 mesh, 20% ethyl acetate/hexane,) afforded 6-benzyloxy-4-formyl-7-methoxy-1-(3-methoxy-benzyl)-1H-isoquinoline-2-carboxylic acid ethyl ester as a colorless oil (85 mg, 52% yield).

reactant | N,N-dimethylformamide | 1.02 mmol, 0.078 mL | CN(C=O)C | C3H7NO
reactant | phosphorus oxychloride | 0.44 mmol, 0.042 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 6-benzyloxy-7-methoxy-1-(3-methoxy-benzyl)-1H-isoquinoline-2-carboxylic acid ethyl ester | 0.34 mmol, 156 mg | C(C)OC(=O)N1C(C2=CC(=C(C=C2C=C1)OCC1=CC=CC=C1)OC)CC1=CC(=CC=C1)OC | C28H29NO5
reactant | potassium acetate | 1.56 mmol, 154 mg | C(C)(=O)[O-].[K+]
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | water | 2 mL | O | H2O
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | 6-benzyloxy-4-formyl-7-methoxy-1-(3-methoxy-benzyl)-1H-isoquinoline-2-carboxylic acid ethyl ester | 85 mg, 52% yield | C(C)OC(=O)N1C(C2=CC(=C(C=C2C(=C1)C=O)OCC1=CC=CC=C1)OC)CC1=CC(=CC=C1)OC | C29H29NO6
